US08633189B2
Concentrated H2SO4 (115 mL) was added to 4-bromo-2-cyclopentylphenyl methyl carbonate (26.09 g, 87.21 mmol) and the mixture stirred and cooled to −10° C. KNO3 (13.22 g, 130.80 mmol) was then added in portions with continuous stirring. The reaction was stirred at −10° C. for 1 h then quenched with ice resulting in precipitation of an off-white solid. The solid was filtered, washed with water and dried to provide the product. The water phase was extracted with dichloromethane (3×10 mL) and the combined organic extracts dried over Na2SO4. Purification by silica gel chromatography (5-20% ethyl acetate/hexane) provided additional 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (combined 21.72 g, 72% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 8.12 (s, 1H), 7.88 (s, 1H), 3.88 (d, J=5.7 Hz, 3H), 3.13 (dd, J=9.4, 17.2 Hz, 1H), 1.96-1.92 (m, 2H), 1.80-1.75 (m, 2H), 1.68-1.54 (m, 4H).

reactant | H2SO4 | 115 mL | OS(=O)(=O)O | H2O4S
reactant | 4-bromo-2-cyclopentylphenyl methyl carbonate | 87.21 mmol, 26.09 g | C(OC1=C(C=C(C=C1)Br)C1CCCC1)(OC)=O | C13H15BrO3
reactant | KNO3 | 130.80 mmol, 13.22 g | [N+](=O)([O-])[O-].[K+]
product | 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 21.72 g, 72% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
